US07915271B2
In a tube were placed (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one (59 mg, 0.099 mmol), 2,4-dibromothiazole (60 mg, 0.247 mmol), DME (420 μL), EtOH (140 μL), and 1M Na2CO3 (296 μL, 0.296 mmol). The mixture was degassed with N2 and then Pd(PPh3)4 (5.7 mg, 4.94×10−3 mmol) was added. The mixture was degassed with N2 again, and then the tube was sealed, and the reaction was heated at 100° C. for 90 minutes. The reaction was cooled to room temperature and diluted with EtOAc (30 mL). The organic layer was washed with water and brine (10 mL) each, dried over Na2SO4, filtered and concentrated. Purification of the residue by flash chromatography on silica gel (5 to 25% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(4-bromo-1,3-thiazol-2-yl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.33 (25% EtOAc/hexanes). LCMS=635.0 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.89 (bs, 2H), 7.78 (s, 2H), 7.75 (d, J=8.3 Hz, 1H), 7.68 (dd, J=8.1, 1.0 Hz, 1H), 7.41 (s, 1H), 5.66 (d, J=8.0 Hz, 1H), 5.02 (d, J=15.8 Hz, 1H), 4.84 (d, J=15.8 Hz, 1H), 4.20 (m, 1H), 0.78 (d, J=6.7 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one | 0.099 mmol, 59 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)C)(F)F | C26H25BF9NO4
reactant | 2,4-dibromothiazole | 0.247 mmol, 60 mg | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | DME | 420 μL | COCCOC | C4H10O2
reactant | Na2CO3 | 0.296 mmol, 1M, 296 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 4.94×10−3 mmol, 5.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 140 μL | CCO | C2H6O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(4-bromo-1,3-thiazol-2-yl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1SC=C(N1)Br)C)(F)F | C23H14BrF9N2O2S
